** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_CIRCUIT_LEAK_TB.sch
**.subckt BANDGAP_CIRCUIT_LEAK_TB
x1 VDD_1V8 0 0 net7 0 VDD_1V8 V_IBP BANDGAP_CIRCUIT
x2 V_IBN V_IBN net2 0 JNWATR_NCH_4C5F0
x4 net6 net1 0 JNWTR_RPPO16
x5 net1 VDD_1V8 VDD_1V8 VDD_1V8 JNWATR_PCH_8C1F2
x6 net2 0 0 0 JNWATR_NCH_8C1F2
x15 V_IBP V_IBN net4 0 JNWATR_NCH_4C5F0
x16 net4 0 0 0 JNWATR_NCH_8C1F2
x17 V_IBP V_IBP net5 VDD_1V8 JNWATR_PCH_4C5F0
x18 net5 VDD_1V8 VDD_1V8 VDD_1V8 JNWATR_PCH_8C1F2
x3 net6 net3 0 JNWTR_RPPO16
x7 V_IBN net3 0 JNWTR_RPPO4
VDD VDD_1V8 0 1.8
**** begin user architecture code


.param mc_mm_switch=0
.param mc_pr_switch=0

.lib ../../../tech/ngspice/temperature.spi Tl
.lib ../../../tech/ngspice/corners.spi Kfs
.lib ../../../tech/ngspice/supply.spi Vh
.include ../../../../cpdk/ngspice/ideal_circuits.spi
*.option savecurrents
.option gmin=1e-12
*.option SEED=1
.temp 100
.save all
.control

optran 0 0 0 10n 1u 0
*dc VIN 0 1.8 1m
tran 0.5u 6m
*op
*ac dec 20 1 1G

write BANDGAP_CIRCUIT_LEAK_TB.raw

exit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  LELO_GR03_SKY130A/BANDGAP_CIRCUIT.sym # of pins=7
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_CIRCUIT.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_CIRCUIT.sch
.subckt BANDGAP_CIRCUIT VDD_1V8 I_PTAT PWRUP_1V8 V_CTAT VSS PWRUP_N_1V8 V_IB
*.opin I_PTAT
*.opin V_CTAT
*.ipin VDD_1V8
*.ipin VSS
*.ipin PWRUP_1V8
*.ipin PWRUP_N_1V8
*.ipin V_IB
XQ2<15> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<14> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<13> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<12> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<11> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<10> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<9> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<8> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<7> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<6> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<5> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<4> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<3> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<2> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<1> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2<0> VSS VSS VD2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
x5 net3 VP net2 VDD_1V8 JNWATR_PCH_4C5F0
XQ2 VSS VSS net1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
x7 net3 net3 VSS VSS JNWATR_NCH_4C5F0
x8 V_CAS net3 VSS VSS JNWATR_NCH_4C5F0
x10 V_CAS V_CAS net2 VDD_1V8 JNWATR_PCH_4C5F0
x3 net2 PWRUP_N_1V8 VDD_1V8 VDD_1V8 JNWATR_PCH_8C1F2
x16 VSTART VP net7 VSS JNWATR_NCH_4C5F0
x18 VP VSTART net2 VDD_1V8 JNWATR_PCH_4C5F0
x4 VSTART VSTART net2 VDD_1V8 JNWATR_PCH_4C5F0
x13 net7 net7 VSS VSS JNWATR_NCH_4C5F0
x15 VP VP VSS VSS JNWATR_NCH_4C5F0
x6 net2 VP JNWTR_CAPX4
x21 VDD_1V8 DV VP net1 VSS PWRUP_N_1V8 PWRUP_1V8 V_IB BANDGAP_OTA_PMOS
x11 net5 VP net2 VDD_1V8 JNWATR_PCH_2C5F0
x20 V_CTAT V_CAS net5 VDD_1V8 JNWATR_PCH_2C5F0
x9 net4 VP net2 VDD_1V8 JNWATR_PCH_2C5F0
x19 net8 V_CAS net4 VDD_1V8 JNWATR_PCH_2C5F0
x14 net6 VP net2 VDD_1V8 JNWATR_PCH_2C5F0
x17 I_PTAT V_CAS net6 VDD_1V8 JNWATR_PCH_2C5F0
x1 VD2 DV VSS JNWTR_RPPO2
x12 V_CTAT DV VSS JNWTR_RPPO8
x22 net8 net1 VSS JNWTR_RPPO8
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sch
.subckt JNWATR_NCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO16.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sch
.subckt JNWTR_RPPO16 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES16
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_PCH_8C1F2.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_8C1F2.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_8C1F2.sch
.subckt JNWATR_PCH_8C1F2 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.22 W=5.76 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_NCH_8C1F2.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_8C1F2.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_8C1F2.sch
.subckt JNWATR_NCH_8C1F2 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8 L=0.22 W=5.76 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sch
.subckt JNWATR_PCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO4.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sch
.subckt JNWTR_RPPO4 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES4
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_CAPX4.sym # of pins=2
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX4.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX4.sch
.subckt JNWTR_CAPX4 A B
*.iopin A
*.iopin B
XXA1 A B JNWTR_CAPX1
XXA2 A B JNWTR_CAPX1
XXB1 A B JNWTR_CAPX1
XXB2 A B JNWTR_CAPX1
.ends


* expanding   symbol:  LELO_GR03_SKY130A/BANDGAP_OTA_PMOS.sym # of pins=8
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_OTA_PMOS.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_OTA_PMOS.sch
.subckt BANDGAP_OTA_PMOS VDD IN+ OUT IN- VSS PWRUP_N_1V8 PWRUP_1V8 V_IBP
*.ipin IN-
*.opin OUT
*.ipin VSS
*.ipin PWRUP_N_1V8
*.ipin VDD
*.ipin PWRUP_1V8
*.ipin V_IBP
*.ipin IN+
x6 OUT net6 net1 VSS JNWATR_NCH_4C5F0
x11<2> OUT net2 JNWTR_CAPX4
x11<1> OUT net2 JNWTR_CAPX4
x11<0> OUT net2 JNWTR_CAPX4
x1<2> net1 PWRUP_1V8 VSS VSS JNWATR_NCH_8C1F2
x1<1> net1 PWRUP_1V8 VSS VSS JNWATR_NCH_8C1F2
x1<0> net1 PWRUP_1V8 VSS VSS JNWATR_NCH_8C1F2
x4<2> net3<1> PWRUP_N_1V8 VDD VDD JNWATR_PCH_8C1F2
x4<1> net3<0> PWRUP_N_1V8 VDD VDD JNWATR_PCH_8C1F2
x4<0> net3<1> PWRUP_N_1V8 VDD VDD JNWATR_PCH_8C1F2
x3<2> net4<2> V_IBP net3<1> VDD JNWATR_PCH_4C5F0
x3<1> net4<1> V_IBP net3<0> VDD JNWATR_PCH_4C5F0
x3<0> net4<0> V_IBP net3<1> VDD JNWATR_PCH_4C5F0
x6<1> OUT V_IBP net3<1> VDD JNWATR_PCH_4C5F0
x6<0> OUT V_IBP net3<0> VDD JNWATR_PCH_4C5F0
x3 net6 net5 net1 VSS JNWATR_NCH_4C5F0
x4 net5 net5 net1 VSS JNWATR_NCH_4C5F0
x2<2> net5 IN- net4<2> VDD LELOATR_LVT_PCH_4C5F0
x2<1> net5 IN- net4<1> VDD LELOATR_LVT_PCH_4C5F0
x2<0> net5 IN- net4<0> VDD LELOATR_LVT_PCH_4C5F0
x5<2> net6 IN+ net4<2> VDD LELOATR_LVT_PCH_4C5F0
x5<1> net6 IN+ net4<1> VDD LELOATR_LVT_PCH_4C5F0
x5<0> net6 IN+ net4<0> VDD LELOATR_LVT_PCH_4C5F0
x1 net2 net6 VSS JNWTR_RPPO4
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_PCH_2C5F0.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_2C5F0.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_2C5F0.sch
.subckt JNWATR_PCH_2C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.94 W=1.92 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO2.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sch
.subckt JNWTR_RPPO2 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES2
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO8.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sch
.subckt JNWTR_RPPO8 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES8
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES16.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sch
.subckt JNWTR_RES16 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 INT_7 INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_8 INT_8 INT_7 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_9 INT_9 INT_8 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_10 INT_10 INT_9 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_11 INT_11 INT_10 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_12 INT_12 INT_11 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_13 INT_13 INT_12 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_14 INT_14 INT_13 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_15 P INT_14 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES4.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sch
.subckt JNWTR_RES4 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 P INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_CAPX1.sym # of pins=2
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sch
.subckt JNWTR_CAPX1 A B
*.iopin A
*.iopin B
XC1 B A sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
.ends


* expanding   symbol:  LELO_ATR_SKY130A/LELOATR_LVT_PCH_4C5F0.sym # of pins=4
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_PCH_4C5F0.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_PCH_4C5F0.sch
.subckt LELOATR_LVT_PCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8_lvt L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES2.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sch
.subckt JNWTR_RES2 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 P INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES8.sym # of pins=3
** sym_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sym
** sch_path: /home/halst/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sch
.subckt JNWTR_RES8 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 P INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends

.end
